US05234946
Production of (E) and (Z)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-benzoylaminobenzylamine
N-methyl-3-benzoylaminobenzylamine hydrochloride (277 mg) was dissolved in 3 ml of dimethylformamide, and 221 mg of 1-bromo-6,6-dimethyl-2-hepten-4-yne and 552 mg of potassium carbonate were stirred overnight at room temperature. The reaction mixture was diluted with water, and extracted with ethyl ether. The extract was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The desiccant was separated by filtration, and then the solvent was evaporated. The residue was purified by preparative thin-layer chromatography [thin-layer plate: Kieselgel 60F254, Art. 5744 (a product of E. Merck Co.); developing solvent: hexane/ethyl acetate=3/1] to give the following compounds as colorless oils.

reactant | N-methyl-3-benzoylaminobenzylamine hydrochloride | 277 mg | Cl.CNCC1=CC(=CC=C1)NC(C1=CC=CC=C1)=O
reactant | 1-bromo-6,6-dimethyl-2-hepten-4-yne | 221 mg | BrCC=CC#CC(C)(C)C | C9H13Br
reactant | potassium carbonate | 552 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (Z)-N-(6,6-dimethyl-2-hepten-4-ynyl)-N-methyl-3-benzoylaminobenzylamine | CC(C#C\C=C/CN(C)CC1=CC(=CC=C1)NC(C1=CC=CC=C1)=O)(C)C | C24H28N2O
